US06143764
N-(4-Chloro-2-nitrophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [238]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (123 mg) was dissolved in toluene (12 ml) with heat, 4-chloro-2-nitrophenyl isocyanate (172 mg) was added, and the admixture was refluxed with heat for 14 minutes. The separated crystals were filtered and then washed with toluene to obtain 174 mg of the title compound (yield: 85%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 123 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-chloro-2-nitrophenyl isocyanate | 172 mg | ClC1=CC(=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3ClN2O3
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chloro-2-nitrophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 174 mg, yield: 85% | ClC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)[N+](=O)[O-] | C24H19ClN4O6
